US06809199B2
3chloro-N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]propane-1-sulfonamide (93 mg, 0.14 mmol) in morpholine (0.25 mL) was heated at 130° C. for 45 min. The reaction mixture was cooled to rt, diluted with ethyl acetate, washed with water, dried (Na2SO4), and concentrated under reduced pressure. The product was purified by flash chromatography on a Biotage 40S column, eluting with 60:40 hexanes-acetone to yield N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-3-morpholin-4-ylpropane-1-sulfonamide. Mass spectrum (ESI) 729 (M+1).

reactant | 3chloro-N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]propane-1-sulfonamide | 0.14 mmol, 93 mg | ClCCCS(=O)(=O)NC1=CC(=C2CN(C(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC)C1=C(C=CC=C1)Cl | C31H27Cl4N3O4S
reactant | morpholine | 0.25 mL | N1CCOCC1 | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-3-morpholin-4-ylpropane-1-sulfonamide | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)NS(=O)(=O)CCCN1CCOCC1)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C35H35Cl3N4O5S
